### PR TITLE
feat(Commutation): prove `angularMomentumSqr_commutation_angularMomentum`

### PR DESCRIPTION
**Pull request by pitmonticone**
This PR adds proofs autoformalised by @Aristotle-Harmonic.

Co-authored-by: Aristotle (Harmonic) <aristotle-harmonic@harmonic.fun>

### CODE REVIEW

File: PhysLean/QuantumMechanics/DDimensions/Operators/Commutation.lean [hunk 1]
```diff
@@ -406,10 +406,26 @@ lemma angularMomentum_commutation_angularMomentum {d : ℕ} (i j k l : Fin d) :
...
+  unfold angularMomentumOperatorSqr
+  simp only [smul_lie, sum_lie, leibniz_lie]
+  simp only [angularMomentum_commutation_angularMomentum]
+  simp only [comp_sub, comp_add, sub_comp, add_comp, comp_smul, smul_comp]
+  simp only [smul_add, smul_sub, Finset.sum_add_distrib, Finset.sum_sub_distrib,
+    ← Finset.smul_sum]
+  dsimp only [kroneckerDelta]
+  simp only [Nat.cast_ite, Nat.cast_one, CharP.cast_eq_zero, mul_ite, mul_one, mul_zero,
+    ite_smul, zero_smul]
+  simp_rw [Finset.sum_ite_eq' Finset.univ, Finset.mem_univ, if_true]
```
Comment (jstoobysmith) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Commutation.lean]: Here also with combining the simps

**Review by jstoobysmith — APPROVED** [review]
Looks good to me - approved. Will merge shortly.
